US05387585
2.1. 8.6 g of 2-(1H-pyrazol-3-yl)aniline are dissolved in 800 ml of tetrahydrofuran. 75.3 g of potassium carbonate are added thereto, the mixture is cooled to 5° C. and then a solution of 6.7 ml of chloroacetyl chloride in 40 ml of diethyl ether is added dropwise thereto within 10 min. The mixture is stirred at 5° C. for 30 min. and then a solution of 0.67 ml of chloroacetyl chloride in 5 ml of diethyl ether is again added dropwise thereto. The mixture is stirred for a further 15 min. and then the insoluble constituent is filtered off, The filtrate is evaporated in a vacuum. The residue is partitioned between saturated aqueous sodium hydrogen carbonate solution and dichloromethane. The aqueous phase is extracted several times with dichloromethane. The organic extracts are dried and evaporated in a vacuum. The residue is taken up in 560 ml of a 0.41N solution of hydrogen chloride in dioxan and stirred at 90° C. for 1 h. The solution is evaporated in a vacuum and the residue is partitioned between saturated aqueous sodium hydrogen carbonate solution and dichloromethane. The dichloromethane extract is evaporated in a vacuum. 11.4 g of 5-(chloromethyl)-pyrazolo[1,5-c]quinazoline are obtained. The m.p. is 135°-136° C. after recrystallization from diisopropyl ether.

reactant | 2-(1H-pyrazol-3-yl)aniline | 8.6 g | N1N=C(C=C1)C1=C(N)C=CC=C1 | C9H9N3
reactant | potassium carbonate | 75.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetyl chloride | 6.7 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroacetyl chloride | 0.67 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 5-(chloromethyl)-pyrazolo[1,5-c]quinazoline | 11.4 g | ClCC1=NC=2C=CC=CC2C=2N1N=CC2 | C11H8ClN3
